US08455475B2
(R)—N-(6-(2,9-Diazaspiro[5.5]undecane-2-carbonyl)-2,3-dihydro-1H-inden-1-yl)-2-chlorobenzamide hydrochloride
Acetyl chloride (5 eq.) was added to an ice-cold solution of (R)-tert-butyl 2-(3-(2-chlorobenzamido)-2,3-dihydro-1H-indene-5-carbonyl)-2,9-diazaspiro[5.5]undecane-9-carboxylate (0.652 mmol, 1 eq.) in ethanol. The reaction mixture was then stirred at room temperature overnight. The solvent was concentrated in vacuo and the residue was dissolved in ethanol/acetone (1:3, 5 ml) and diethyl ether (100 ml) was added. The white solid was filtered out, washed with diethyl ether and dried in vacuo. Yield: 82%

reactant | Acetyl chloride | 5 eq. | C(C)(=O)Cl | C2H3ClO
reactant | (R)-tert-butyl 2-(3-(2-chlorobenzamido)-2,3-dihydro-1H-indene-5-carbonyl)-2,9-diazaspiro[5.5]undecane-9-carboxylate | 0.652 mmol, 1 eq. | ClC1=C(C(=O)N[C@@H]2CCC3=CC=C(C=C23)C(=O)N2CC3(CCC2)CCN(CC3)C(=O)OC(C)(C)C)C=CC=C1 | C31H38ClN3O4
solvent | ethanol | C(C)O | C2H6O
product | (R)—N-(6-(2,9-Diazaspiro[5.5]undecane-2-carbonyl)-2,3-dihydro-1H-inden-1-yl)-2-chlorobenzamide hydrochloride | Yield: 82% | Cl.C1N(CCCC12CCNCC2)C(=O)C2=CC=C1CC[C@H](C1=C2)NC(C2=C(C=CC=C2)Cl)=O | InChI=1S/C26H30ClN3O2.ClH/c27-22-5-2-1-4-20(22)24(31)29-23-9-8-18-6-7-19(16-21(18)23)25(32)30-15-3-10-26(17-30)11-13-28-14-12-26;/h1-2,4-7,16,23,28H,3,8-15,17H2,(H,29,31);1H/t23-;/m1./s1
